US08022222B2
N-(4-(quinolin-5-yloxy)pyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine
The title compound was prepared according to the method of Example 180 from 4-(quinolin-5-yloxy)pyridin-2-amine and 2-chloro-3-isothiocyanatopyridine; (0.006 g, 3.83% yield) as a light yellow solid. 1H NMR (d6-DMSO) δ 11.47 (s, 1H), 9.00 (dd, 1H), 8.32 (m, 3H), 8.04 (d, 1H), 7.88 (t, 2H), 7.59 (dd, 1H), 7.51 (d, 1H), 7.38 (dd, 1H), 6.77 (dd, 1H), 6.66 (d, 1H).

reactant | 4-(quinolin-5-yloxy)pyridin-2-amine | N1=CC=CC2=C(C=CC=C12)OC1=CC(=NC=C1)N | C14H11N3O
reactant | 2-chloro-3-isothiocyanatopyridine | ClC1=NC=CC=C1N=C=S | C6H3ClN2S
product | N-(4-(quinolin-5-yloxy)pyridin-2-yl)thiazolo[5,4-b]pyridin-2-amine | 3.83% yield | N1=CC=CC2=C(C=CC=C12)OC1=CC(=NC=C1)NC=1SC2=NC=CC=C2N1 | C20H13N5OS
